Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
cephalexin / fish derived
 
Attending: ___.
 
Chief Complaint:
clotted fistula
 
Major Surgical or Invasive Procedure:
Fistulogram and angioplasty ___

 
History of Present Illness:
___ male with a history of ESRD on HD ___, DM2, HTN, 
hx
PE, sarcoidosis, depression (SI ___ who presents with concern
for clotted fistula of the right upper extremity. Patient states
he had some discomfort in the right arm. He presented to 
dialysis
where there was no palpable or audible thrill in the fistula.
Patient's last hemodialysis session was ___. He has
otherwise felt well. Denies chest pain, palpitations, shortness
of breath, abdominal pain, vomiting, diarrhea, ___ edema. He does
still make a small amount of urine. 

In the ED, initial vitals:  98.8  88  138/71   17  95% RA. 
Vitals
remained stable in ED.
 
- Labs notable for:  Cr stable around 2.5 since arrival. K
initially 5.8, now 4.2.

- Imaging notable for: CXR w/ pulmonary nodule, but no c/f
infection. AV fistulogram ordered.
 
- Patient was given: home meds

- Consults: ___, awaiting fistulogram. Renal consulted, no urgent
indication for HD at this time, will schedule HD after
fistulogram.
 
On arrival to the floor, pt asx. Endorses above hx. Also states
that recently treated 3x for PNA at ___, had CT
chest that demonstrated L lung mass that was biopsied. Has
appointment to f/u results beginning of ___.

REVIEW OF SYSTEMS:  
A complete 10-point review of systems was performed and was
negative less otherwise noted in the HPI.  

 
Past Medical History:
- ESRD: chemically induced per patient by seroquel. He has a
right upper arm brachial basilic AV fistula created by ___ on ___. The basiic vein was transposed on
___. He underwent AVF banding for steal syndrome in ___ with ___.
- Hypertension
- hyperlipidemia
- Type 2 Diabetes (chemically induced per patient by
sero___)
- thyroid disease (sub-total thyroidectomy in ___- no
supplement)
- Horse shoe kidney
- Right subsegmental PE ___,
- Sarcoidosis
- Depression(hx of SI in ___.
 
Social History:
___
Family History:
strong family hx of cancer, including lung cancer
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
======================== 
VS: 98.1 PO 141 / 87 L Sitting 80 20 96 Ra  
GENERAL: Pleasant, lying in bed comfortably, AOx3  
HEENT: atraumatic, MMM, EOMI, PERRL
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended, no
hepatomegaly, no splenomegaly  
EXT: Warm, well perfused, no lower extremity edema  
PULSES: 2+ radial pulses, 2+ ___ pulses, 2+ DP pulses  
NEURO: Alert, oriented, CN II-XII intact, motor and sensory
function grossly intact  
SKIN: No significant rashes

DISCHARGE PHYSICAL EXAM:
========================
24 HR Data (last updated ___ @ 703)
    Temp: 98.4 (Tm 98.6), BP: 100/61 (100-135/61-76), HR: 84
(78-93), RR: 18, O2 sat: 97% (94-97), O2 delivery: ra   
GENERAL: alert, NAD
HEENT: atraumatic, anicteric sclerae
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: Appears in no respiratory distress, clear to auscultation
bilaterally, no crackles, wheezes, or rhonchi  
ABD: Normal bowel sounds, soft, nontender, nondistended
EXT: Warm, well perfused, no lower extremity edema, RUE fistula
w/ palpable thrill
NEURO: Alert, oriented, motor and sensory function grossly 
intact
SKIN: No significant rashes 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:55PM BLOOD WBC-7.3 RBC-4.35* Hgb-13.6* Hct-41.6 
MCV-96 MCH-31.3 MCHC-32.7 RDW-14.5 RDWSD-50.6* Plt ___
___ 06:55PM BLOOD Neuts-67.1 ___ Monos-6.5 Eos-2.9 
Baso-0.7 Im ___ AbsNeut-4.88 AbsLymp-1.63 AbsMono-0.47 
AbsEos-0.21 AbsBaso-0.05
___ 06:55PM BLOOD Glucose-175* UreaN-32* Creat-2.5* Na-138 
K-6.6* Cl-108 HCO3-22 AnGap-8*
___ 06:55PM BLOOD Calcium-8.6 Phos-3.3 Mg-2.1
___ 07:53PM BLOOD K-5.8*
___ 08:45PM URINE Color-Straw Appear-Clear Sp ___
___ 08:45PM URINE Blood-NEG Nitrite-NEG Protein-TR* 
Glucose-1000* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 
Leuks-NEG
___ 08:45PM URINE RBC-0 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0

INTERVAL LABS:
==============
___ 07:15AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG
___ 07:15AM BLOOD HCV Ab-NEG

DISCHARGE LABS:
===============
___ 05:17AM BLOOD WBC-5.8 RBC-4.31* Hgb-13.5* Hct-40.3 
MCV-94 MCH-31.3 MCHC-33.5 RDW-14.0 RDWSD-48.0* Plt ___
___ 05:17AM BLOOD Glucose-140* UreaN-22* Creat-2.0* Na-140 
K-3.8 Cl-103 HCO3-21* AnGap-16
___ 05:17AM BLOOD Calcium-8.5 Phos-2.5* Mg-2.2

MICROBIOLOGY:
=============
___ 8:28 pm STOOL     CONSISTENCY: LOOSE      Source: 
Stool. 

                            **FINAL REPORT ___

   C. difficile PCR (Final ___: 
      NEGATIVE. 
           (Reference Range-Negative). 
      The C. difficile PCR is highly sensitive for toxigenic 
strains of C.
      difficile and detects both C. difficile infection (CDI) 
and
      asymptomatic carriage. 
      A negative C. diff PCR test indicates a low likelihood of 
CDI or
      carriage.

IMAGING AND REPORTS:
====================
CHEST (PA & LAT) ___
2 cm nodular opacity projects over the left lower lobe, 
difficult to discern if truly pulmonary or possibly pleural 
based.  Recommend nonemergent chest CT for further evaluation 
for concern for pulmonary nodule.
RECOMMENDATION(S):  Nonemergent chest CT to further evaluate 2 
cm nodular
opacity projecting over the left lower chest/lung.

AV FISTULOGRAM ___
FINDINGS:
1. Complete thrombosis of the right upper extremity AV fistula 
to the level of the outflow vein.
2. Outflow vein stenosis with improvement following angioplasty 
to 8 mm.
3. Satisfactory appearance of the arterial anastomosis. No 
in-graft or central venous stenosis.
IMPRESSION: 
Satisfactory restoration of flow following chemical and 
mechanical
thrombolysis with a good angiographic and clinical result.
 
Brief Hospital Course:
___ male with a history of ESRD on HD ___ who 
presented with a clotted fistula. He underwent fistulogram and 
angioplasty on ___ with restoration of flow, and underwent HD 
on ___.

ACUTE ISSUES:
=============
# ESRD on HD MWF
# Clotted fistula:
Presented with clotted RUE fistula with last HD session prior to 
admission on ___. Initially hyperkalemic which 
normalized after receiving dextrose/insulin on ___. 
Electrolytes and creatinine remained stable w/o dialysis for ___ 
days. Underwent fistulogram and angioplasty on ___ which showed 
complete thrombosis of the right upper extremity AV fistula to 
the level of the outflow vein. Flow improved s/p angioplasty. 
Underwent HD on ___. Given the stability of his 
electrolytes/Cr, he was discharged with plan to resume ___ HD on 
___ as an outpatient.

# Diarrhea
Patient reported watery diarrhea x2 weeks. C.diff was negative. 
His diarrhea was improving at time of discharge.

# L lung mass: per pt, had CT scan that demonstrated mass, s/p
biopsy. Does not know results. Has appointment scheduled at ___ in beginning of ___. Respiratory status stable on RA.

CHRONIC ISSUES:
===============
# DM2: Held home glipizide while inpatient. Continued home 
glargine, placed on HISS.
# HTN: continued amlodipine 10mg
# HLD: continued home statin
# Depression: continued home paroxetine, Seroquel QHS
# Chronic pain: continued home gabapentin, cyclobenzaprine PRN,
# Anxiety: continued home clonazepam 0.5mg prn, temazepam 30 mg 
qhs prn

TRANSITIONAL ISSUES:
====================
[] Consider diarrhea workup if it does not improve.
[] Please administer Hepatitis B vaccine series as he is 
nonimmune.
[] Patient may have enough residual function to come off 
dialysis, but patient reported he failed a trial off dialysis 
___ volume overload. Consider a trial off HD as an outpatient.
[] Please ensure patient follows-up at ___ for lung mass 
workup.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxepin HCl 50 mg PO HS 
2. Lisinopril 2.5 mg PO DAILY 
3. Cyclobenzaprine 5 mg PO TID:PRN back spasm 
4. PARoxetine 40 mg PO DAILY 
5. GlipiZIDE XL 5 mg PO BID 
6. Temazepam 30 mg PO QHS:PRN anxiety 
7. QUEtiapine Fumarate 100 mg PO QHS 
8. Simvastatin 5 mg PO QPM 
9. Gabapentin 400 mg PO TID 
10. amLODIPine 10 mg PO DAILY 
11. ClonazePAM 0.5 mg PO TID:PRN anxiety 
12. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 
13. budesonide-formoterol 160-4.5 mcg/actuation inhalation BID 
14. Glargine 20 Units Breakfast
Glargine 20 Units Bedtime

 
Discharge Medications:
1.  Gabapentin 300 mg PO TID 
RX *gabapentin 300 mg 1 capsule(s) by mouth three times a day 
Disp #*90 Capsule Refills:*0 
2.  Glargine 20 Units Breakfast
Glargine 20 Units Bedtime 
3.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
4.  amLODIPine 10 mg PO DAILY  
5.  budesonide-formoterol 160-4.5 mcg/actuation inhalation BID  
6.  ClonazePAM 0.5 mg PO TID:PRN anxiety  
7.  Cyclobenzaprine 5 mg PO TID:PRN back spasm  
8.  Doxepin HCl 50 mg PO HS  
9.  GlipiZIDE XL 5 mg PO BID  
10.  Lisinopril 2.5 mg PO DAILY  
11.  PARoxetine 40 mg PO DAILY  
12.  QUEtiapine Fumarate 100 mg PO QHS  
13.  Simvastatin 5 mg PO QPM  
14.  Temazepam 30 mg PO QHS:PRN anxiety  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Clotted AV Fistula

SECONDARY DIAGNOSIS
===================
End stage renal disease on hemodialysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for a clotted fistula. 
 
What was done for me while I was in the hospital?  
- ___ fixed the clotted fistula and you got dialysis through it 
before you left.  

What should I do when I leave the hospital?  
- Continue attending all of your scheduled dialysis sessions and 
taking all your prescribed medications.  
 
Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___